US05025036
A mixture of 5.8 g (0.013 mol) of 1-(6-bromohexyl)-2,3-bis(phenylmethoxy)benzene, 3.5 g (0.013 mol) of 4-hydroxy-3-nitrobenzoic acid phenylmethyl ester, 3.5 g (0.026 mol) of potassium carbonate and 2.9 g (0.019 mol) of sodium iodide in 125 mL of acetone and 13 mL of dimethylformamide was stirred and heated at reflux for 5 days. Workup as described in Example 16 and purification by HPLC using 50% methylene chloride-hexane gave 6.85 g (83% yield) of 3-nitro-4-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]benzoic acid phenylmethyl ester as an oil.

reactant | 1-(6-bromohexyl)-2,3-bis(phenylmethoxy)benzene | 0.013 mol, 5.8 g | BrCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C26H29BrO2
reactant | 4-hydroxy-3-nitrobenzoic acid phenylmethyl ester | 0.013 mol, 3.5 g | C1(=CC=CC=C1)COC(C1=CC(=C(C=C1)O)[N+](=O)[O-])=O | C14H11NO5
reactant | potassium carbonate | 0.026 mol, 3.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.019 mol, 2.9 g | [I-].[Na+]
solvent | acetone | 125 mL | CC(=O)C | C3H6O
solvent | dimethylformamide | 13 mL | CN(C=O)C | C3H7NO
product | 3-nitro-4-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]benzoic acid phenylmethyl ester | 6.85 g, 83% yield | C1(=CC=CC=C1)COC(C1=CC(=C(C=C1)OCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)[N+](=O)[O-])=O | C40H39NO7
